US05550149
α-(3,4-Dimethoxyphenyl)-7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile
The procedure of Example 3 is repeated using 2.5 g of α-(5-chloropentyl-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile and 2.54 g 7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1,2,3,4-tetrahydro-6-methoxyisoquinoline. This affords 1.2 g of the desired product as a light yellow oil.

reactant | 5-chloropentyl-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | ClCCCCCC1=C(C=CC(=C1OC)OC)C(C#N)SC1=CC=C(C=C1)C | C22H26ClNO2S
reactant | 7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1,2,3,4-tetrahydro-6-methoxyisoquinoline | 2.54 g | CC(C)(C)[Si](OC1=C(C=C2CCNCC2=C1)OC)(C)C | C16H27NO2Si
product | α-(3,4-Dimethoxyphenyl)-7-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3,4-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2(1H)-isoquinolineheptanenitrile | 1.2 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2CC1)OC)O[Si](C)(C)C(C)(C)C)SC1=CC=C(C=C1)C | C38H52N2O4SSi
